US08044070B2
2) Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(1H-pyridin-2-on-5-yl)pyrimidine
10% palladium-carbon (700 mg) was added to a methanol solution (30 ml) of 2-(cyclopentylpiperidin-4-yloxy)-5-(2-benzyloxypyridin-5-yl)pyrimidine (2.22 g), and stirred in a hydrogen atmosphere at room temperature for 3 hours. The reaction mixture was filtered to remove palladium-carbon, and the filtrate was concentrated under reduced pressure to obtain the entitled compound.

reactant | 2-(cyclopentylpiperidin-4-yloxy)-5-(2-benzyloxypyridin-5-yl)pyrimidine | 2.22 g | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)C=1C=CC(=NC1)OCC1=CC=CC=C1 | C26H30N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 700 mg | [C].[Pd]
solvent | methanol | 30 ml | CO | CH4O
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(1H-pyridin-2-on-5-yl)pyrimidine | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)C=1C=CC(NC1)=O | C19H24N4O2
